US04126689
From an aqueous solution of 2.8 parts of N-(2,6-dimethylphenyl)-N-(1-propyl-4-piperidinyl)-2-thiopheneacetamide dihydrochloride, the free base is liberated by alkalization with sodium hydrogen carbonate solution. The free base is extracted with 1,1'-oxybisethane. The extract is dried and evaporated. The oily residue is dissolved in 56 parts of hexane and after cooling to -10° C., the solid free base is precipitated. It is filtered off and dried, yielding 1.6 parts of N-(2,6-dimethylphenyl)-N-(1-propyl-4-piperidinyl)-2-thiopheneacetamide; mp. 62.5° C.

reactant | N-(2,6-dimethylphenyl)-N-(1-propyl-4-piperidinyl)-2-thiopheneacetamide dihydrochloride | Cl.Cl.CC1=C(C(=CC=C1)C)N(C(CC=1SC=CC1)=O)C1CCN(CC1)CCC
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-(2,6-dimethylphenyl)-N-(1-propyl-4-piperidinyl)-2-thiopheneacetamide | CC1=C(C(=CC=C1)C)N(C(CC=1SC=CC1)=O)C1CCN(CC1)CCC | C22H30N2OS
